US03947416
Preparation of 3-n-Butyl-Pyrido[3,2-d] Pyrimidine-2,4(1H,3H)-Dione
A 100 ml. flask was charged with 9.0 g. of a mixture of N2 -n-butyl-2,3-pyridine-dicarboxamide and N3 -n-butyl-2,3-pyridine-dicarboxamide suspended in 70 g. dimethylformamide. An 18.0 g. portion of lead tetra-acetate was added, and the reaction mixture stirred at 60° for 2 hours. The reaction mixture was poured into 200 ml. water. The precipitate was filtered from the water, recrystallized from dioxane, and dried at 100°, for about 1 hour. The final yield of 3-n-butyl-pyrido[3,2-d] and 3-n-butyl-pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione amounted to 8.4 g., melting point 200°-210°, and represented 93 percent of theory based on the dicarboxamide starting material. The structure was determined by nuclear magnetic resonance spectroscopy to consist of 78 percent of the [3,2-d]isomer and 22 percent of the [2,3-d]isomer.

reactant | N2 n-butyl-2,3-pyridine-dicarboxamide | N#N.C(CCC)C1=C(C(=NC=C1)C(=O)N)C(=O)N
reactant | n-butyl-2,3-pyridine-dicarboxamide | C(CCC)C1=C(C(=NC=C1)C(=O)N)C(=O)N | C11H15N3O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | lead tetra-acetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | water | O | H2O
product | 3-n-Butyl-Pyrido[3,2-d] Pyrimidine-2,4(1H,3H)-Dione | C(CCC)N1C(NC2=C(C1=O)N=CC=C2)=O | C11H13N3O2
